US07414076B2
Preparation of 3-[(1R,2R,3R,5S)-1,2,6,6-tetramethylbicyclo[3.1.1]hept-3-yl]amino-1-propanesulfonic acid (Compound EH)
To a solution of (1R,2R,3R,5S)-(−)-isopinocampheylamine (2.0 g, 13.0 mmol) in tetrahydrofuran (20 mL) was slowly added 1,3-propanesultone (1.56 g, 12.5 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid product was collected by filtration, washed with acetone (2×25 mL), and dried in a vacuum oven (50° C.), to afford compound EH (2.7 g, 80%). 1H NMR (DMSO, 500 MHz) δ ppm 3.32 (m, 2H), 3.09 (d, 2H), 2.67 (m, 2H), 2.30 (m, 2H), 1.96 (m, 4H), 1.75 (m, 2H), 1.18 (s, 3H), 1.11 (m, 4H), 0.90 (s, 3H). 13C NMR (DMSO, 125 MHz) δ ppm 55.97, 50.11, 47.55, 45.86, 41.15, 40.91, 38.94, 32.81, 31.61, 27.96, 23.85, 22.59, 21.21, [α]D=−17.2° (c=0.00083 in water), ES-MS 274 (M−1).

reactant | (1R,2R,3R,5S)-(−)-isopinocampheylamine | 13.0 mmol, 2.0 g | CC1C2CC(C2(C)C)CC1N | C10H19N
reactant | 1,3-propanesultone | 12.5 mmol, 1.56 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[(1R,2R,3R,5S)-1,2,6,6-tetramethylbicyclo[3.1.1]hept-3-yl]amino-1-propanesulfonic acid | C[C@@]12[C@H]([C@@H](C[C@@H](C1(C)C)C2)NCCCS(=O)(=O)O)C | C14H27NO3S
